US07151097B2
Preparation of 3-(4-Chloro-phenyl)-2-(2-chloro-phenyl)-7-(2,2-difluoro-propyl)-6,7-dihydro-2H,5H-4-oxa-1,2,7-triaza-azulen-8-one (2A-1)
To a stirred solution of 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)4-hydroxy-1H-pyrazole-3-carboxylic acid (2,2-difluoro-propyl)-(2-hydroxy-ethyl)-amide I-3d (10 g, 21 mmol), triphenyl phosphine (8.4 g, 31.5 mmol) in toluene (210 ml) was added 1,1′-(azodicarbonyl)dipiperidine (8.0 g, 31.5 mmol). After 18 hours, 20% ethyl acetate:hexanes (210 ml) was added, the mixture was stirred at ambient temperature for 1 hour and filtered. The filtrate was concentrated in vacuo and the resulting oil was chromatographed on silica gel (20–70% ethyl acetate:hexanes) to afford the title compound (2A-1) as a solid, 7.8 g. 1H NMR in CDCl3 (ppm) δ 7.53–7.50 (m, 1H), 7.38–7.33 (m, 3H), 7.24–7.21 (m, 2H), 7.16–7.13 (m, 2H), 4.45 (br s, 2H), 4.02 (t, 2H), 3.90 (br s, 2H), 1.69 (t, 3H); ms (LCMS) m/z=452.2 (M+1). Combustion analysis calculated for: C: 55.77%; H: 3.79%; N: 9.29%. Found: C: 55.69%; H: 3.52%; N: 9.13%.

reactant | 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)4-hydroxy-1H-pyrazole-3-carboxylic acid (2,2-difluoro-propyl)-(2-hydroxy-ethyl)-amide | 21 mmol, 10 g | FC(CN(C(=O)C1=NN(C(=C1O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)CCO)(C)F | C21H19Cl2F2N3O3
reactant | triphenyl phosphine | 31.5 mmol, 8.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 31.5 mmol, 8.0 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chloro-phenyl)-2-(2-chloro-phenyl)-7-(2,2-difluoro-propyl)-6,7-dihydro-2H,5H-4-oxa-1,2,7-triaza-azulen-8-one | ClC1=CC=C(C=C1)C=1N(N=C2C(N(CCOC12)CC(C)(F)F)=O)C1=C(C=CC=C1)Cl | C21H17Cl2F2N3O2
